US04330539
A solution of 17α-formamido-16β-hydroxy-5α-androstan-3-one ethylene acetal (5.2 g) in dry tetrahydrofuran (182 ml) was added dropwise to a stirred suspension of lithium aluminium hydride (2.6 g) in tetrahydrofuran (78 ml) at 0° C. The cooling bath was removed and the stirred suspension was heated under reflux, and under a nitrogen atmosphere for 5 h. The mixture was cooled, water was added dropwise, and the solids were removed by filtration through dicalite. The filter was washed with hot tetrahydrofuran and the combined filtrate and washings were evaporated to give 16β-hydroxy-17α-methylamino-5α-androstan-3-one ethylene acetal as a colourless residue (5.0 g.).

reactant | 17α-formamido-16β-hydroxy-5α-androstan-3-one ethylene acetal | 5.2 g | C1COC2(C[C@@H]3CC[C@H]4[C@@H]5C[C@@H]([C@H]([C@@]5(C)CC[C@@H]4[C@]3(CC2)C)NC=O)O)O1 | C22H35NO4
reactant | lithium aluminium hydride | 2.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 182 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 78 ml | O1CCCC1 | C4H8O
product | 16β-hydroxy-17α-methylamino-5α-androstan-3-one ethylene acetal | C1COC2(C[C@@H]3CC[C@H]4[C@@H]5C[C@@H]([C@H]([C@@]5(C)CC[C@@H]4[C@]3(CC2)C)NC)O)O1 | C22H37NO3
